US08471005B2
Into a Microwave vial, (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine (0.12 g, 0.30 mmol), Aniline (0.0470 g, 0.504 mmol), 1,1′-Bis(diphenylphosphino)ferrocene (0.0050 g, 0.0091 mmol), Tris(dibenzylideneacetone)dipalladium(0) (0.0051 g, 0.0055 mmol), Sodium tert-butoxide (0.0349 g, 0.363 mmol) were added and purged under an atmosphere of Nitrogen for 10 minutes. Toluene (1.00 mL, 9.39 mmol) was then added and stirred at room temperature for one minute. The reaction was microwaved on 300 watts, 150° C. for 20 minutes. HPLC suggested 50% conversion. DCM and methanol was added and purified via flash column chromatography with DCM and methanol as eluant (10% methanol). The solvent was removed under vacuum to afford a semi-solid. The semi-solid was purified via HPLC with water and ACN as eluant (5 to 45% ACN). The collected fractions afforded N(2)-[4-(4-Methyl-piperazin-1-yl)-phenyl]-N(7)-phenyl-pyrrolo[2,1-f][1,2,4]triazine-2,7-diamine as a yellow solid. MP 152-157° C. LCMS (E/I+) 400.18 (M+H). NMR 1H (DSMO-d6)-8.99 (s, 1H), 8.68 (s, 1H), 8.17 (s, 1H), 7.52 (d, 2H, J=8.96 Hz), 7.22 (t, 1H, J=7.92 Hz), 6.78-6.85 (m, 2H), 6.73 (d, 1H, J=9.00 Hz), 6.56 (d, 1H, J=4.65 Hz), 3.00 (t, 1H, J=4.25 Hz), 2.44 (bs, 4H), 2.23 (s, 3H), 1.16 (s, 9H).

reactant | (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | 0.30 mmol, 0.12 g | BrC1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCN(CC2)C | C17H19BrN6
reactant | Aniline | 0.504 mmol, 0.0470 g | NC1=CC=CC=C1 | C6H7N
reactant | Sodium tert-butoxide | 0.363 mmol, 0.0349 g | CC(C)([O-])C.[Na+]
reactant | Toluene | 9.39 mmol, 1.00 mL | C1(=CC=CC=C1)C | C7H8
catalyst | 1,1′-Bis(diphenylphosphino)ferrocene | 0.0091 mmol, 0.0050 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 0.0055 mmol, 0.0051 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | methanol | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N(2)-[4-(4-Methyl-piperazin-1-yl)-phenyl]-N(7)-phenyl-pyrrolo[2,1-f][1,2,4]triazine-2,7-diamine | CN1CCN(CC1)C1=CC=C(C=C1)NC1=NN2C(C=N1)=CC=C2NC2=CC=CC=C2 | C23H25N7
